US07834007B2
tert-Butyl (S)-5-((R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)propanamido)-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate.
The title compound was prepared from (S)-tert-butyl 5-amino-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate and (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinazolin-3 (4H)-yl)piperidine-1-carboxamido)propanoic acid using the same procedure as described for tert-butyl (S)-5-((R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanamido)-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate. The title compound was obtained in 66% yield. MS (ESI) 850 (M+H) ; Rf=2.07.

reactant | (S)-tert-butyl 5-amino-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(N1CCN(CC1)C1=CC=NC=C1)=O | C20H33N5O3
reactant | (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinazolin-3 (4H)-yl)piperidine-1-carboxamido)propanoic acid | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C25H28N6O4
reactant | tert-butyl (S)-5-((R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanamido)-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)N[C@@H](CCCCNC(OC(C)(C)C)=O)C(N1CCN(CC1)C1=CC=NC=C1)=O)NC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C46H58N10O6
product | tert-Butyl (S)-5-((R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidine-1-carboxamido)propanamido)-6-oxo-6-(4-(pyridin-4-yl)piperazin-1-yl)hexylcarbamate | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)N[C@@H](CCCCNC(OC(C)(C)C)=O)C(N1CCN(CC1)C1=CC=NC=C1)=O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C45H59N11O6
